2105-04-24 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  L Septic Joint
   24 Hour Events:
   - Patient went to the OR L knee washout
   - Gram stain negative for bacteria
   - Plastics consulted, no role for surgical debridement.  Recommended
   wound VAC in near future.  Continued Wet to dry TID
   - RUQ u/s and Echocardiogram to be done today
   - ID recommends continuing Daptomycin
   - Unable to wean Dopamine gtt
   - Spoke with HD physician, [**Name10 (NameIs) 7097**] that patient had started HD last
   [**Month (only) 1148**].  Unclear why patient is on Keppra.  Unable to verify
   vancomycin allergy.
   - Mid-line port broke, was pulled without culturing tip.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2105-4-23**] 03:53 PM
   Morphine Sulfate - [**2105-4-24**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-24**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 120 (76 - 130) bpm
   BP: 83/69(74) {80/43(59) - 111/69(82)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,075 mL
                                                                    133 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,835 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  2,050 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.29/47/120/19/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: A/Ox3 on trach collar
   Heart: Irregularly irregular, distant heart sounds
   Lungs: Course BS anterolaterally
   Abd: Soft, NT, ND, BS+
   Back: 7x7 cm stage 4 decub in center 3cm superior to anus
   Ext: LLE>RLE, LLE cooler then Right.  L knee with JP drain in place.
   Labs / Radiology
   99 K/uL
   8.1 g/dL
   80 mg/dL
   4.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   37 mg/dL
   103 mEq/L
   137 mEq/L
   25.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2105-4-22**]  10:16 PM
                             [**2105-4-23**]  12:41 AM
                             [**2105-4-23**]  04:08 AM
                             [**2105-4-23**]  02:33 PM
                             [**2105-4-23**]  05:52 PM
                             [**2105-4-24**]  05:04 AM
   WBC
   5.2
   5.7
   7.0
   7.3
   Hct
   24.0
   28.2
   26
   26.9
   25.8
   Plt
   78
   81
   87
   99
   Cr
   3.8
   4.4
   4.7
   TropT
   0.39
   TCO2
   27
   24
   Glucose
   86
   85
   450
   80
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:18/3/0.39, ALT / AST:7/36, Alk Phos / T Bili:284/0.5, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:202 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   74 yo M w/ septic prosthetic knee
   #Septic Prosthetic joint: Patient s/p L knee washout.  Hardware remains
   in place.  Gram stain of fluid neg for organisms, but has ? 72 WBC from
   186K WBC on joint tap in ER.   ID consulted and recommended continuing
   Daptomycin.  whether BP is normal for pt. as he mentates well w/ SBP in
   70s.
   -          wean dopamine, will tolerate Maps in 50s
   -          f/u ID recommendations
   -          f/u ortho recommendations
   -          f/u fluid cultures
   -          Check Echo today
   # Hypotension:  Patient
s SBPs have been in the 70s while attempting to
   wean the dopamine.   It is unclear what patient
s baseline blood
   pressures are.  Patient has been mentating well while SBPs in 70s.  In
   light of HD today, inclined to keep the dopamine on during HD.
   - Plan to wean Dopamine as tolerated
   - Consider mitodrine as alternative.
   #Respiratory failure: underlying COPD, ? whether hypercarbia causing
   periodic somnolence and unresponsiveness.  Patient
s CXR concerning for
   L lung atelectasis.  Patient is post op, may have mucous plug in
   airway, however film is rotated and of poor quality.
          - Repeat CXR
   - continue on trach mask today
   #Atrial fibrillation: holding anticoagulation given Hx of GIB.  Poorly
   rate controlled.   Patient is
   #ESRD: ? IgA nephropathy in chart. Has tunneled line for access. Gets
   HD MWF at NH.  Patient will need minimum 2L off, however this may be
   limited by patient
s blood pressure.
   - HD today
   -Renally dose meds
   -caution with lyte repletion
   .
   CAD:No evidence of current ischemia, ECG unremarkable, no complaints of
   chest pain, CK normal. Elevated troponin likely in setting of renal
   failure.
   -continue aspirin
   .
   Sacral ulcer: Plastic surgery was consulted and did not feel wound
   needed to be debrided.
   - Continue wet to dry TID
   - Check Sacral CXR
   .
   # H/o seizure d/o
   -keppra
   .
   <I>## Anemia:</I>Per notes is chronic, pt is transfusion dependent,
   last transfusion at HD today. Also on epogen.
   -hold iron in house
   -Trend hct, transfuse for <21
   .
   Full code
   Pneumoboots for PPx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   18 Gauge - [**2105-4-22**] 08:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2105-04-25 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -RUQ u/s showed cirrhosis and splenomegaly
   -no sacral films done
   -echo with severe TR, dilated & hypokinetic RV
   -continue daptomycin per ID recs
   -repeat CXR was improved
   -pt started on dopamine
   -added on sensitivities to wound cx for quinolones, rifampin,
   doxycycline, and linezolid
   -f/u OSH sensitivities
   -sent another sputum
   -HD had 2.8 L off, got blood cx during dialysis, start epo next week,
   should get CRRT if having trouble with dialysis
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-24**] 04:45 PM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2105-4-25**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-25**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 105 (96 - 115) bpm
   BP: 83/51(61) {70/43(52) - 101/64(75)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    809 mL
                                                                    421 mL
   PO:
                                                                    370 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    439 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                 -2,051 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 10.6 L/min
   Physical Examination
   Gen: A/Ox3, appropriate, on trach collar
   Heart :Irregularly irregular, No murmurs
   Lungs: Absent breath sounds on left, upper airway sounds on R
   Abd: Moderately distended, BS+ hypoactive, NT
   Ext: 2+ Pitting edema to midcalf
   Labs / Radiology
   96 K/uL
   7.9 g/dL
   144 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   27 mg/dL
   100 mEq/L
   135 mEq/L
   24.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2105-4-22**]  10:16 PM
                             [**2105-4-23**]  12:41 AM
                             [**2105-4-23**]  04:08 AM
                             [**2105-4-23**]  02:33 PM
                             [**2105-4-23**]  05:52 PM
                             [**2105-4-24**]  05:04 AM
                             [**2105-4-25**]  01:26 AM
   WBC
   5.2
   5.7
   7.0
   7.3
   5.6
   Hct
   24.0
   28.2
   26
   26.9
   25.8
   24.6
   Plt
   78
   81
   87
   99
   96
   Cr
   3.8
   4.4
   4.7
   5.0
   3.8
   TropT
   0.39
   TCO2
   27
   24
   Glucose
   86
   85
   [**Telephone/Fax (2) 7120**]
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:18/3/0.39, ALT / AST:[**5-/2047**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:202 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR
   .
   #Hypotension: Several possible etiologies, cirrhosis, septic joint,
   volume loss from HD, progression of heart failure, blood .  Currently
   w/ Maps in 50s on 7.8 of dopamine. ? how low his BP normally runs as no
   e/o hypoperfusion w/ normal lactate and mentation w/ SBPs in 70s.
   - Wean dopamine as tolerated
   - [**Last Name (un) 402**] stim in am
   - continue daptomycin per ID
   #Septic Prosthetic joint: Patient s/p L knee washout.  Hardware remains
   in place.  Gram stain of fluid neg for organisms, but has ? 72 WBC from
   186K WBC on joint tap in ER.   ID consulted and recommended continuing
   Daptomycin.  whether BP is normal for pt. as he mentates well w/ SBP in
   70s.
   -          wean dopamine, will tolerate Maps in 50s
   -          f/u ID recommendations
   -          f/u ortho recommendations
   -          f/u fluid cultures
   -          Check Echo today
   # Hypotension:  Patient
s SBPs have been in the 70s while attempting to
   wean the dopamine.   It is unclear what patient
s baseline blood
   pressures are.  Patient has been mentating well while SBPs in 70s.  In
   light of HD today, inclined to keep the dopamine on during HD.
   - Plan to wean Dopamine as tolerated
   - Consider mitodrine as alternative.
   #Respiratory failure: underlying COPD, ? whether hypercarbia causing
   periodic somnolence and unresponsiveness.  Patient
s CXR concerning for
   L lung atelectasis.  Patient is post op, may have mucous plug in
   airway, however film is rotated and of poor quality.
          - Repeat CXR
   - continue on trach mask today
   #Atrial fibrillation: holding anticoagulation given Hx of GIB.  Poorly
   rate controlled.   Patient is
   #ESRD: ? IgA nephropathy in chart. Has tunneled line for access. Gets
   HD MWF at NH.  Patient will need minimum 2L off, however this may be
   limited by patient
s blood pressure.
   - HD today
   -Renally dose meds
   -caution with lyte repletion
   .
   CAD:No evidence of current ischemia, ECG unremarkable, no complaints of
   chest pain, CK normal. Elevated troponin likely in setting of renal
   failure.
   -continue aspirin
   .
   Sacral ulcer: Plastic surgery was consulted and did not feel wound
   needed to be debrided.
   - Continue wet to dry TID
   - Check Sacral CXR
   .
   # H/o seizure d/o
   -keppra
   .
   <I>## Anemia:</I>Per notes is chronic, pt is transfusion dependent,
   last transfusion at HD today. Also on epogen.
   -hold iron in house
   -Trend hct, transfuse for <21
   .
   Full code
   Pneumoboots for PPx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   18 Gauge - [**2105-4-22**] 08:43 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2105-04-26 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: L Knee Septic Joint, Sacral Osteo, Hypotension on
   pressors
   24 Hour Events:
   REnal decided to wait till monday to dialyze
   No ortho note left
   Given 1 Unit PRBCs through 22gauge IV, then able to wean dopamine to 4,
   but Hct did not bump appropriately ? whether blood was hemolyzed going
   through 22.
   18 gauge IV working only positionally w/ no other access for dopamine
   Sacral CT showed osteo
   CT torso showed likely fluid in L chest and impacted stool so given
   enema.
   Afternoon [**Last Name (un) 402**] stim was adequate
   Given enema through ostomy and had large amount of stool out.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-24**] 04:45 PM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2105-4-26**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-26**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 85 (77 - 115) bpm
   BP: 105/61(75) {69/40(51) - 120/69(86)} mmHg
   RR: 22 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,659 mL
                                                                    214 mL
   PO:
                                                                    780 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    504 mL
                                                                     94 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                    125 mL
   Urine:
   NG:
   Stool:
   Drains:
   75 mL
   Balance:
                                                                  1,659 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 184
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.41/27/95.[**Numeric Identifier 143**]/21/-5 at 3am
   Ve: 10.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: A/Ox3, appropriate, on trach collar
   Heart :Irregularly irregular, No murmurs
   Lungs: Absent breath sounds on left, upper airway sounds on R
   Abd: Moderately distended, BS+ hypoactive, NT
   Ext: 2+ Pitting edema to midcalf
   Labs / Radiology
   89 K/uL
   7.9 g/dL
   86 mg/dL
   4.2 mg/dL
   21 mEq/L
   3.6 mEq/L
   32 mg/dL
   99 mEq/L
   135 mEq/L
   24.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2105-4-23**]  12:41 AM
                             [**2105-4-23**]  04:08 AM
                             [**2105-4-23**]  02:33 PM
                             [**2105-4-23**]  05:52 PM
                             [**2105-4-24**]  05:04 AM
                             [**2105-4-25**]  01:26 AM
                             [**2105-4-25**]  04:19 PM
                             [**2105-4-26**]  12:54 AM
                             [**2105-4-26**]  03:00 AM
                             [**2105-4-26**]  04:07 AM
   WBC
   5.7
   7.0
   7.3
   5.6
   5.4
   Hct
   28.2
   26
   26.9
   25.8
   24.6
   24.5
   Plt
   81
   87
   99
   96
   89
   Cr
   4.4
   4.7
   5.0
   3.8
   4.2
   TCO2
   27
   24
   28
   20
   18
   Glucose
   85
   [**Telephone/Fax (2) 7120**]
   86
   Other labs: Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:5.8 mg/dL
   [**Last Name (un) **] Stim this AM appropriate
   Hapto level pending
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR
   .
   #Hypotension: Several possible etiologies, cirrhosis, septic joint,
   volume loss from HD, progression of heart failure, blood .  Currently
   w/ Maps in 50s on 7.8 of dopamine. ? how low his BP normally runs as no
   e/o hypoperfusion w/ normal lactate and mentation w/ SBPs in 70s.
   Albumin low probably [**2-2**] poor nutrition at NH, but also from cirrhosis,
   will consult nutrition to try to improve albumin. Would doubt SBP as he
   was treated for >7 days w/ meropenem after this started.
   - Wean dopamine as tolerated
   - [**Last Name (un) 402**] stim in am
   - continue daptomycin per ID
   #Septic Prosthetic joint: Patient s/p L knee washout.  Hardware remains
   in place. Culture growing sparse coag + staph which would be c/w
   previous MRSA from first tap on [**4-10**].
   -          f/u ortho recommendations
   -          f/u cx sensitivities
   #Respiratory failure: underlying COPD, new whiteout of L lung most
   likely represents mucous plugging but could also be effusion or
   hemothorax s/p traumatic line attempt. Breathing well w/o hypoxia on
   trach mask.
          - f/u final read on CT chest
   - continue on trach mask today
   #Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled.
   #ESRD: No urgent need for dialysis today, will likely dialyze on monday
   - Hdplan for Monday, follow daily lytes
   -HD dose meds
   -caution with lyte repletion
   .
   .
   Sacral ulcer: Plastic surgery was consulted and did not feel wound
   needed to be debrided.
   - Continue wet to dry TID
   - Check Sacral CXR
   .
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent Sz activity as they are
   gradual onset.
   -keppra for now
   .
   <I>## Anemia:</I>Per notes is chronic, pt is transfusion dependent.
   Transfused one unit here. Also on epogen.
   -hold iron in house
   -Trend hct, transfuse for <21
   .
   Full code
   Pneumoboots for PPx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   18 Gauge - [**2105-4-22**] 08:43 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2105-04-27 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Septic knee
   24 Hour Events:
   - Need to contact [**Name (NI) 189**] in AM to find out if patient has been
   treated for osteo in the past, per ID recommendations.
   - Dopamine turned off yesterday, hemodynamically stable
   - [**Last Name (un) **] Stim normal
   - Plan for HD Monday
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-24**] 04:45 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-27**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-27**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96.1
   HR: 87 (75 - 100) bpm
   BP: 100/60(75) {82/52(66) - 129/82(308)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,037 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
                                                                    137 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    105 mL
   Balance:
                                                                    382 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   RR (Spontaneous): 18
   FiO2: 40%
   SpO2: 97%
   ABG: 7.30/43/118//-4
   PaO2 / FiO2: 295
   Physical Examination
   Gen: A/Ox3, appropriate, on trach collar
   Heart :Irregularly irregular, No murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, BS+ hypoactive, NT
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   CT chest/abdomen/pelvis: [**4-25**]:
   1. Multiloculated simple-appearing left pleural effusion with adjacent
   regions of lung collapse as described above. Underlying infection
   within
   these regions of collapse as well as empyema cannot be excluded on this
   non-
   contrast examination. Additionally mild-to-moderate centrilobular
   emphysema
   with probable underlying tracheal and proximal bronchial malacia.
   2. Calcified and non-calcified pleural plaques consistent with
   underlying
   asbestos exposure. No parenchymal findings to suggest underlying
   asbestosis.
   Given the involvement of the medial pleural surface on the left as well
   as
   some regions of underlying nodularity, a dedicated biopsy and/or VATS
   examination would be of benefit to exclude underlying mesothelioma if a
   contrast enhanced exam can not be performed.
   3. Extensive atherosclerotic calcification with 2.6cm of focal region
   of
   ulceration involving the inferior aspect of the aortic arch.
   4. Colitis involving the residual left-sided colon. Most likely
   infectious
   or inflammatory with ischemia felt less likely.
   5. Known underlying sequelae of cirrhosis with mild-to-moderate intra-
   abdominal ascites.
   6. Large fecal load noted within the right and transverse colon.
   Fecalized
   matter within the stomach may suggest underlying gastroparesis and/or
   severe
   ileus.
   7. Fluid-filled distended esophagus also likely related to underlying
   dysmotility. Can consider further evaluation with dedicated esophogram
   when
   clinically feasible.
   8. Cholelithiasis without evidence of acute cholecystitis.
   9. Large sacral decubitus ulcer with extension to involve the inferior
   sacrum
   and coccyx which display demineralization and destruction of the cortex
   consistent with osteomyelitis.
   10. Vertebra plana deformity involving T11 vertebral body likley
   related to
   prior infection and/or trauma. If there is clinical concern for an
   acute
   spondylitis, a dedicated MRI examination could be obtained. Gadolinium
   should
   be used if patient's GFR allows.
   Please note if any outside imaging is available, comparison will be
   helpful to
   assess the acuity of these findings. Findings were discussed with
   covering
   100 K/uL
   8.0 g/dL
   88 mg/dL
   5.3 mg/dL
   20 mEq/L
   3.6 mEq/L
   37 mg/dL
   93 mEq/L
   128 mEq/L
   25.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2105-4-23**]  05:52 PM
                             [**2105-4-24**]  05:04 AM
                             [**2105-4-25**]  01:26 AM
                             [**2105-4-25**]  04:19 PM
                             [**2105-4-26**]  12:54 AM
                             [**2105-4-26**]  03:00 AM
                             [**2105-4-26**]  04:07 AM
                             [**2105-4-26**]  03:37 PM
                             [**2105-4-26**]  11:57 PM
                             [**2105-4-27**]  04:23 AM
   WBC
   7.0
   7.3
   5.6
   5.4
   5.6
   Hct
   26.9
   25.8
   24.6
   24.5
   23.4
   25.3
   Plt
   87
   99
   96
   89
   100
   Cr
   4.7
   5.0
   3.8
   4.2
   TCO2
   28
   20
   18
   22
   Glucose
   80
   80
   144
   86
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs
   - f/u cx sensitivities from OSH
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - f/u with [**Name8 (MD) 189**] MD to see if patient has been treated for Osteo
   before to tailor treatment
   - continue wet to dry TID
   # Respiratory failure: underlying COPD.  Patient with L pleural
   effusion on CT chest, with left lower lobe collapse/atalectasis /
   cannot rule-out pneumonia. Clinically, patient afebrile with no white
   count or mucus production.
   - continue trach mask today
   - patient will need repeat CT as outpatient to evaluate L pleural
   effusion
   # Hypotension:   Resolved.  Off pressors currently, MAP > 60.  Unclear
   etiology.  Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   # Left-sided colitis on CT: no white count. Afebrile. Non-tender
   abdomen on physical exam. Large stool output yesterday.
   - f/u C dif
   - continue to monitor abdominal exam
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD plan for Monday, follow daily lytes
   - HD dose meds
   - caution with lyte repletion
   .
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   .
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   .
   Full code
   Pneumoboots for PPx
   Access: PICC to be placed today in IR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   18 Gauge - [**2105-4-22**] 08:43 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   Prophylaxis:
   DVT: heparin allergy; continue pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2105-04-27 11:03:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Sepsis
   Infected joint
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
                               History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-24**] 04:45 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-27**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2105-4-27**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.5
C (95.9
   HR: 90 (75 - 94) bpm
   BP: 121/67(86) {82/54(70) - 129/82(325)} mmHg
   RR: 23 (16 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,037 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
                                                                    137 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    105 mL
   Balance:
                                                                    382 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 91%
   ABG: 7.28/48/130/20/-4
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Poor dentition, tracheostomy tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   100 K/uL
   88 mg/dL
   5.3 mg/dL
   20 mEq/L
   3.6 mEq/L
   37 mg/dL
   93 mEq/L
   128 mEq/L
   25.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2105-4-24**]  05:04 AM
                             [**2105-4-25**]  01:26 AM
                             [**2105-4-25**]  04:19 PM
                             [**2105-4-26**]  12:54 AM
                             [**2105-4-26**]  03:00 AM
                             [**2105-4-26**]  04:07 AM
                             [**2105-4-26**]  03:37 PM
                             [**2105-4-26**]  11:57 PM
                             [**2105-4-27**]  04:23 AM
                             [**2105-4-27**]  09:30 AM
   WBC
   7.3
   5.6
   5.4
   5.6
   Hct
   25.8
   24.6
   24.5
   23.4
   25.3
   Plt
   99
   96
   89
   100
   Cr
   5.0
   3.8
   4.2
   5.3
   TCO2
   28
   20
   18
   22
   24
   Glucose
   80
   144
   86
   88
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:7.0 mg/dL
   Fluid analysis / Other labs: AG--15
   Imaging: CT--Abd-
   -suggestion of colitis
   -Pleural effusion
   -Sacral ileitis
   CXR-
   Assessment and Plan
   74 yo male with history of ESRD, HIT, Cirrhosis now admit following
   "wash out" of infected TKR and sepsis.  He has had persistent
   hypotension which does appear to be improved today and persistent
   issues may be related to a combination of A-Fib, continued volume
   shifts with dialysis and sepsis resolution
   1)Sepsis/Hypotension-The provocative findings are colitis on the CT
   scan with additional sources as described above being Rx
   -Daptomycin continuing for 6 week course from time of wash out
   -Do have concern for possible pulmonary infection based upon sputum
   volume but have had improvement with continued Daptomycin.
   -Will need to consider Rx for c. diff if clinical worsening seen, but,
   in interim will check c. diff.  The other place to evaluate for
   possible residual infectious source would be pleural fluid but is small
   volume and loculated.
   -Osteomyelitis to be covered by Daptomycin likely
   -Will send stool for C. Diff
   2)ESRD-
   _Dialysis per routine
   -Catheter in place
   3)Respiratory Failure
Paitent with intermittent collapse of left side
   but with excellent response to chest PT and positioning.
   -Continue with trach mask collar for now.
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN TISSUE PERFUSION
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2105-04-28 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2105-4-28**] 01:15 AM
   - d/c naloxone
   - S/p 1 L removal at HD (no dopamine given)
   - Started Vac for sacral decub
   - Started ceftaz for GNR coverage given increased sputum
   - Hypotensive with SBP 70s-80s and MAPs 50s but clear MS, no
   intervention
   In am: patient with increasing lethargy, ABG with mild worsening of
   acidosis so patient placed back on vent.  Also with some increasing
   abdominal distention.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2105-4-28**] 02:40 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-28**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-28**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 95 (78 - 107) bpm
   BP: 77/55(60) {68/35(48) - 99/58(64)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    440 mL
                                                                     50 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: 7.28/48/130/23/-4
   PaO2 / FiO2: 260
   Physical Examination
   Gen: lethargic, arousable and able to follow verbal commands.
   Heart :Irregularly irregular, No murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, BS+ hypoactive, NT
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   100 K/uL
   7.8 g/dL
   102 mg/dL
   3.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   26 mg/dL
   98 mEq/L
   133 mEq/L
   24.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2105-4-25**]  01:26 AM
                             [**2105-4-25**]  04:19 PM
                             [**2105-4-26**]  12:54 AM
                             [**2105-4-26**]  03:00 AM
                             [**2105-4-26**]  04:07 AM
                             [**2105-4-26**]  03:37 PM
                             [**2105-4-26**]  11:57 PM
                             [**2105-4-27**]  04:23 AM
                             [**2105-4-27**]  09:30 AM
                             [**2105-4-28**]  03:49 AM
   WBC
   5.6
   5.4
   5.6
   4.6
   Hct
   24.6
   24.5
   23.4
   25.3
   24.1
   Plt
   96
   89
   100
   100
   Cr
   3.8
   4.2
   5.3
   3.8
   TCO2
   28
   20
   18
   22
   24
   Glucose
   144
   86
   88
   102
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - f/u with [**Name8 (MD) 189**] MD to see if patient has been treated for Osteo
   before to tailor treatment
   - continue wound Vac.
   # Respiratory failure: underlying COPD.  Patient with L pleural
   effusion on CT chest, with left lower lobe collapse/atalectasis /
   cannot rule-out pneumonia. Likely mucous plugging given timing and
   imaging.  Patient with some increase in sputum production with a gram
   stain with GNR.
   - Start ceftazadime for possible PNA given CXR and incresed sputum
   production.
   - continue vent for short time alternating with trach mask as
   tolerated.
   -T/c bronch for mucous suction.  Chest PT.
   # Hypotension:   Some low blood pressures.  [**Month (only) 51**] be related to HD made
   worse by autonomic dyxfunction from cirrhosis.  Off pressors currently,
   MAP > 55 eith a goal > 60.  Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   -If unable to increase MAP to > 60 may need some dopamine support.
   # Left-sided colitis on CT: no white count. Afebrile. Non-tender
   abdomen on physical exam. Large stool output yesterday.  C. Diff
   negative.
   - continue to monitor abdominal exam
   - F/u final read of KUB.
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD plan for Monday, follow daily lytes
   - HD dose meds
   - caution with lyte repletion
   .
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   .
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   .
   Access: PICC to be placed today in IR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (Pt agreed to one shock, see POE)
   Disposition: Awating improvment in mental status, blood pressure and
   respiratory status.

2105-04-28 11:15:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2105-4-28**] 01:15 AM
   -Dialysis tolerated without pressors
   -Ceftaz started for GNR's noted in sputum and increased secretions.
   -Worsening ventilation across the night-->7.23/64/76 on ABG this
   morning and placed back on ventilator
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2105-4-28**] 02:40 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-28**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2105-4-28**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 126 (78 - 126) bpm
   BP: 109/64(79) {86/48(61) - 113/68(327)} mmHg
   RR: 21 (12 - 24) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    440 mL
                                                                     50 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 91%
   ABG: 7.23/64/76.[**Numeric Identifier 126**]/23/-2
   PaO2 / FiO2: 190
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Much diminshed mental
   status from yesterday
   Labs / Radiology
   7.8 g/dL
   100 K/uL
   102 mg/dL
   3.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   26 mg/dL
   98 mEq/L
   133 mEq/L
   24.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2105-4-26**]  12:54 AM
                             [**2105-4-26**]  03:00 AM
                             [**2105-4-26**]  04:07 AM
                             [**2105-4-26**]  03:37 PM
                             [**2105-4-26**]  11:57 PM
                             [**2105-4-27**]  04:23 AM
                             [**2105-4-27**]  09:30 AM
                             [**2105-4-28**]  03:49 AM
                             [**2105-4-28**]  08:45 AM
                             [**2105-4-28**]  09:56 AM
   WBC
   5.4
   5.6
   4.6
   Hct
   24.5
   23.4
   25.3
   24.1
   Plt
   89
   100
   100
   Cr
   4.2
   5.3
   3.8
   TCO2
   20
   18
   22
   24
   28
   28
   Glucose
   86
   88
   102
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR--Severe rotation with suggestion of increaed consolidation
   and collapse in left hemi-thorax
   Microbiology: Sputum-_GNR's
   Assessment and Plan
   74 yo male admitted with hypotension and septic arthritis in area of
   TKR.  He now has had evolution of worsening hypercarbia and requiring
   return to ventilator this morning--he has findings on his CXR to
   suggest recurrent collapse in left chest and concerning for mucus
   plugging contributing to worsening with progressive compromise across
   the past 24 hours.  In light or recurrent collapse will have to
   consider approach to prevention as well as management.  We are limited
   by trach tube size with ID at 6.0 limiting possibilities for
   bronchoscopy and will need to stabilize ventilation prior to
   intervention therefore.
   1)Septic Arthritis-
   -Daptomycin x 6 weeks
   2)Respiratory Failure-Secondary to recurrent substantial collapse at
   this time in addition to prolonged background of ventilatory
   compromise.
   -Chest PT
   -Frequent suctioning
   -COPD Rx with nebs and humidified air
   -Possible PNA
with GNR
s in sputum and will continue with Ceftazidime
   -Will need bronch to evaluate for full clearance of secretions and
   possible malacia when able
   3) H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -Continue with dialysis and have been able to maintain good tolerance
   of dialysis without pressors
   -TIW dialysis per renal
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
PICC for today
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition :ICU
   Total time spent: 45 minutes

2105-04-29 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: septic knee
   24 Hour Events:
   - Worsening acidosis --> placed on vent, ABG improved.
   - Ordered for PICC today --> did not get
   - CXR: white out left lung --> improved with Chest PT
   - BP decreased to MAP of < 55 --> responded to 500cc MS [**Last Name (Titles) **] x2.
   - ?Dialysis today?
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2105-4-28**] 02:40 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-28**] 04:00 PM
   Pantoprazole (Protonix) - [**2105-4-28**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-29**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 92 (85 - 126) bpm
   BP: 77/47(59) {65/39(51) - 109/64(333)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,150 mL
                                                                     66 mL
   PO:
             TF:
   IVF:
                                                                  1,150 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 346 (346 - 346) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.27/50/104//-4
   Ve: 7.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: more interactive today; responds to simple commands.
   Heart :Irregularly irregular, No murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, BS+ hypoactive, NT
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   111 K/uL
   7.4 g/dL
   63 mg/dL
   4.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   28 mg/dL
   101 mEq/L
   135 mEq/L
   23.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2105-4-26**]  11:57 PM
                             [**2105-4-27**]  04:23 AM
                             [**2105-4-27**]  09:30 AM
                             [**2105-4-28**]  03:49 AM
                             [**2105-4-28**]  08:45 AM
                             [**2105-4-28**]  09:56 AM
                             [**2105-4-28**]  12:54 PM
                             [**2105-4-28**]  10:02 PM
                             [**2105-4-29**]  05:36 AM
                             [**2105-4-29**]  05:56 AM
   WBC
   5.6
   4.6
   6.2
   Hct
   25.3
   24.1
   23.0
   Plt
   100
   100
   111
   Cr
   5.3
   3.8
   TCO2
   22
   24
   28
   28
   26
   26
   24
   Glucose
   88
   102
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs (start date was [**4-23**])
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - continue wound Vac
   - daptomycin as above
   # Respiratory failure: underlying COPD.  Patient with L pleural
   effusion on CT chest, with left lower lobe collapse/atalectasis/ cannot
   rule-out pneumonia. Likely mucous plugging given timing and imaging.
   Patient with some increase in sputum production with a gram stain with
   GNR.
   - start ceftazadime for possible PNA given CXR and increased sputum
   production
   - patient should complete 8-day course of ceftaz for pneumonia (started
   on [**4-28**])
   - continue vent for short time alternating with trach mask as tolerated
   - T/c bronch for mucous suction.  Chest PT.
   # Hypotension:   Some low blood pressures.  [**Month (only) 51**] be related to HD made
   worse by autonomic dyxfunction from cirrhosis.  Off pressors currently,
   MAP > 55 with a goal > 60.  Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   -if unable to increase MAP to > 60 may need some dopamine support.
   # Left-sided colitis on CT: no white count. Afebrile. Non-tender
   abdomen on physical exam. C. Diff negative.
   - continue to monitor abdominal exam
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD dose meds
   - caution with lyte repletion
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   Access: PICC to be placed today in IR
   ICU Care
   Nutrition: encourage PO intake when off vent
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (Pt agreed to one shock, see POE)
   Disposition: Awating improvment in mental status, blood pressure and
   respiratory status.

2105-04-29 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Septic Arthritis
   Chronic Renal Failure
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient returned to mechanical ventilation with lung collapse addressed
   with chest PT and suctioning.
   He has had some improved ventilation and oxygenatin with ventilatory
   support.
   Patient able to maintain BP with dialysis and moving to have negative
   fluid balance for session this morning.
   History obtained from Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2105-4-28**] 02:40 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-28**] 04:00 PM
   Pantoprazole (Protonix) - [**2105-4-28**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-29**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 98 (85 - 104) bpm
   BP: 87/54(66) {65/39(51) - 100/59(333)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,150 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                  1,150 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 326 (326 - 346) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.27/45/70/22/-5
   Ve: 7 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: Left)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   111 K/uL
   63 mg/dL
   4.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   28 mg/dL
   101 mEq/L
   135 mEq/L
   23.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2105-4-27**]  04:23 AM
                             [**2105-4-27**]  09:30 AM
                             [**2105-4-28**]  03:49 AM
                             [**2105-4-28**]  08:45 AM
                             [**2105-4-28**]  09:56 AM
                             [**2105-4-28**]  12:54 PM
                             [**2105-4-28**]  10:02 PM
                             [**2105-4-29**]  05:36 AM
                             [**2105-4-29**]  05:56 AM
                             [**2105-4-29**]  09:02 AM
   WBC
   5.6
   4.6
   6.2
   Hct
   25.3
   24.1
   23.0
   Plt
   100
   100
   111
   Cr
   5.3
   3.8
   4.6
   TCO2
   24
   28
   28
   26
   26
   24
   22
   Glucose
   88
   102
   63
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.8 mg/dL
   Imaging: CXR-
   Assessment and Plan
   74 yo male admitted with septic arthritis and now with prolonged
   hosptial course and has had recurrent collapse with Left lung collapse
   and required to be returned to mechanical ventilation.  His source of
   recurrent collapse is quite likely mucus plugging with subseqent
   collapse--intervention with bronchoscope is complicated by the size of
   trach tube which is 6.0.
   1)Respiratory Failure-
   -Will continue with support of atelectasis and collapse with frequent
   suctioning and clearance of secretions
some improvement on film over
   past 24 hours.
   -Dapto/Ceftaz to continue
   -Suction frequently
   -Maintain PPV for this am and consider wean to TM trial
   -Will have to consider effusion evaluation if infiltrate persists as
   there is known locluated effusion
   2)ESRD-
   -Dialysis with negative fluid balance today as BP has tolerated.
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN TISSUE PERFUSION
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: Patient to start with po
s when off ventilator
   Glycemic Control:
   Lines: --PICC for today
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-04-30 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HD for 1L negative including 2U pRBC blood
   - Dapto/ceftaz dosed after HD
   - SBP up to 130 post HD, but then dropped down to 80s at night with MAP
   50s
   - PICC line placed
   - CXR: interval increase in pulmonary edema. Bilateral pleural
   effusions are still present, moderate. Left lower lobe continues to be
   atelectatic.
   - ID recs: Ceftazadine x 8 days for GNR pneumonia
   - Face mask trial ABG in PM: 7.31/51/79 (from 7.27/45/70 in AM)
   - Lethargic in evening: ABG 7.30/50/82 --> ?d/t 6mg morphine in PM
   - Trach put back on AC overnight
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-29**] 11:39 AM
   Ceftazidime - [**2105-4-29**] 06:39 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-29**] 05:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-30**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 75 (68 - 116) bpm
   BP: 84/47(59) {77/45(56) - 139/73(241)} mmHg
   RR: 16 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,050 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    300 mL
                                                                     68 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 137 (137 - 416) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.33/45/136/24/-2
   Ve: 7.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Gen: more interactive today; responds to simple commands.
   Heart :Irregularly irregular, No murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, BS+ hypoactive, NT
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   124 K/uL
   9.0 g/dL
   82 mg/dL
   3.8 mg/dL
   24 mEq/L
   3.4 mEq/L
   22 mg/dL
   102 mEq/L
   139 mEq/L
   28.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2105-4-28**]  09:56 AM
                             [**2105-4-28**]  12:54 PM
                             [**2105-4-28**]  10:02 PM
                             [**2105-4-29**]  05:36 AM
                             [**2105-4-29**]  05:56 AM
                             [**2105-4-29**]  09:02 AM
                             [**2105-4-29**]  12:06 PM
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
   WBC
   6.2
   6.6
   Hct
   23.0
   28.2
   Plt
   111
   124
   Cr
   4.6
   3.8
   TCO2
   28
   26
   26
   24
   22
   27
   26
   25
   Glucose
   63
   82
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs (start date was [**4-23**])
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - continue wound Vac
   - daptomycin as above
   # Respiratory failure: underlying COPD.  Patient with L pleural
   effusion on CT chest, with left lower lobe collapse/atalectasis/ cannot
   rule-out pneumonia. Likely mucous plugging given timing and imaging.
   Patient with some increase in sputum production with a gram stain with
   GNR.
   - start ceftazadime for possible PNA given CXR and increased sputum
   production
   - patient should complete 8-day course of ceftaz for pneumonia (started
   on [**4-28**])
   - continue vent for short time alternating with trach mask as tolerated
   - T/c bronch for mucous suction.  Chest PT.
   # Hypotension:   Some low blood pressures.  [**Month (only) 51**] be related to HD made
   worse by autonomic dyxfunction from cirrhosis.  Off pressors currently,
   MAP > 55 with a goal > 60.  Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   -if unable to increase MAP to > 60 may need some dopamine support.
   # Left-sided colitis on CT: no white count. Afebrile. Non-tender
   abdomen on physical exam. C. Diff negative.
   - continue to monitor abdominal exam
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD dose meds
   - caution with lyte repletion
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   Access: PICC to be placed today in IR
   ICU Care
   Nutrition: encourage PO intake when off vent
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (Pt agreed to one shock, see POE)
   Disposition: Awating improvment in mental status, blood pressure and
   respiratory status.

2105-05-01 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Put back on trach mask, tolerated well, Vented overnight
   - Given saline enema through ostomy with good bowel movement and
   decrease in abdominal pain
   - Lactulose increased to qid
   - Sputum with staph
   Pt reports decreased abdominal pain today
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-29**] 11:39 AM
   Ceftazidime - [**2105-4-29**] 06:39 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-4-30**] 09:00 AM
   Pantoprazole (Protonix) - [**2105-4-30**] 09:17 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-5-1**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 91 (79 - 109) bpm
   BP: 128/81(93) {128/81(93) - 128/81(93)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    948 mL
                                                                     95 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    448 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    948 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.27/58/75/22/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen: Sleeping, arousable follows commands
   Heart :Irregularly irregular, no murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, BS+, mild tenderness diffusely, no
   guarding/rebound
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   134 K/uL
   8.8 g/dL
   101 mg/dL
   4.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   25 mg/dL
   102 mEq/L
   137 mEq/L
   28.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2105-4-29**]  05:36 AM
                             [**2105-4-29**]  05:56 AM
                             [**2105-4-29**]  09:02 AM
                             [**2105-4-29**]  12:06 PM
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
   WBC
   6.2
   6.6
   7.6
   Hct
   23.0
   28.2
   28.0
   Plt
   111
   124
   134
   Cr
   4.6
   3.8
   4.6
   TCO2
   24
   22
   27
   26
   25
   29
   28
   Glucose
   63
   82
   101
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # Respiratory failure: Underlying COPD with L pleural effusion on CT
   chest, with left lower lobe atelectasis likely [**2-2**] to mucous plugging
   and GNR pneumonia. Staph likely not cause of pneumonia. Patient is
   occasionally vent dependant which seems to be his current baseline from
   his previous rehab.
   - 8-day course of ceftaz for pneumonia (started on [**4-28**])
   - Currently tolerating trach mask, continue Chest PT
   # Hypotension:   Blood pressures lower overnight but improved this AM.
   [**Month (only) 51**] be related to HD made worse by autonomic dyxfunction from
   cirrhosis.   Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   - No need for dopamine for now; consider if unable to increase MAP to >
   60
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs (start date was [**4-23**])
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - Continue wound Vac
   - daptomycin as above
   # Abdominal pain: Left-sided colitis on CT but afebrile without
   elevated WBC. C. Diff negative. Mildly tender but without acute
   abdomen, likely with component from impacted stool.
   - Saline enema through ostomy (had been receiving one q3d at rehab with
   good results)
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD dose meds
   - caution with lyte repletion
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   Access: PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (Pt agreed to one shock, see POE)
   Disposition: D/w case management placement.

2105-05-01 12:14:00 Physician Attending Progress Note
Chief Complaint: Septic Arthritis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with GPC seen in sputum and decision made with ID to continue
   current ABX
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-4-29**] 11:39 AM
   Ceftazidime - [**2105-4-29**] 06:39 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-5-1**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 100 (86 - 106) bpm
   BP: 123/80(102) {108/77(91) - 128/84(102)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    948 mL
                                                                    142 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    448 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    948 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.27/58/75/22/-1
   Ve: 7.6 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   134 K/uL
   101 mg/dL
   4.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   25 mg/dL
   102 mEq/L
   137 mEq/L
   28.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2105-4-29**]  05:36 AM
                             [**2105-4-29**]  05:56 AM
                             [**2105-4-29**]  09:02 AM
                             [**2105-4-29**]  12:06 PM
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
   WBC
   6.2
   6.6
   7.6
   Hct
   23.0
   28.2
   28.0
   Plt
   111
   124
   134
   Cr
   4.6
   3.8
   4.6
   TCO2
   24
   22
   27
   26
   25
   29
   28
   Glucose
   63
   82
   101
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.39, ALT / AST:[**6-28**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Imaging: CXR--MEDS
   Microbiology: SPutum-Staph-sparse coag pos
   Assessment and Plan
   74 yo male with septic arthritis and respiratory failure now with
   reasonable tolerance of trach mask trials during the day and minimal
   evidence of recurrent significant infection.
   1)Respiratory Failure-He has had continued good tolerance of daytime
   trach mask.  He has benefited from nocturnal ventilation in part to
   maintain airwy patency and minimize recurrent collapse.  This would be
   expected to be a long term support until better stability of
   oxygenation and lung patency seen.
   -Trach mask
   -PSV during nigh/sleep
   -continue current ABX
   2)Sepsis-clearly resolved, good long term ABX plan
   Dapto/Ceftaz
   3)Septic Arthritis-
   -Lidocaine patch
   4)Renal Failure-
   -Continue with TIW dialysis
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN TISSUE PERFUSION
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: TF
s to continue
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 minutes

2105-05-02 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Septic knee
   24 Hour Events:
   - started sevlemir carbonate per renal
   - ID: continue ceftaz course and dapto
   - patient started on dig and metop for rapid HR --> responded well
   - Continued screening at [**Hospital1 **]
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-5-1**] 12:23 PM
   Ceftazidime - [**2105-5-1**] 02:07 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-5-2**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 98 (76 - 116) bpm
   BP: 114/75(84) {87/62(67) - 157/115(124)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
                  Total In:
                                                                    314 mL
                  PO:
                  TF:
   IVF:
                                                                    314 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,686 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: ///27/
   Ve: 7.6 L/min
   Physical Examination
   Gen:
   Heart :
   Lungs:
   Abd:
   Ext:
   Labs / Radiology
   123 K/uL
   9.6 g/dL
   94 mg/dL
   3.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   17 mg/dL
   101 mEq/L
   137 mEq/L
   30.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2105-4-29**]  05:56 AM
                             [**2105-4-29**]  09:02 AM
                             [**2105-4-29**]  12:06 PM
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
                             [**2105-5-2**]  04:24 AM
   WBC
   6.6
   7.6
   8.3
   Hct
   28.2
   28.0
   30.7
   Plt
   124
   134
   123
   Cr
   3.8
   4.6
   3.6
   TCO2
   24
   22
   27
   26
   25
   29
   28
   Glucose
   82
   101
   94
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:13/3/0.39, ALT / AST:[**3-14**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # Respiratory failure: Underlying COPD with L pleural effusion on CT
   chest, with left lower lobe atelectasis likely [**2-2**] to mucous plugging
   and GNR pneumonia
   - 8-day course of ceftaz for pneumonia (started on [**4-28**])
   - Currently tolerating trach mask, continue Chest PT
   # Hypotension:   Blood pressures lower overnight but improved this AM.
   [**Month (only) 51**] be related to HD made worse by autonomic dyxfunction from
   cirrhosis.   Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   - No need for dopamine for now; consider if unable to increase MAP to >
   60
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs (start date was [**4-23**])
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - Continue wound Vac
   - daptomycin as above
   # Abdominal pain: Left-sided colitis on CT but afebrile without
   elevated WBC. C. Diff negative. Mildly tender but without acute
   abdomen, likely with component from impacted stool.
   - Saline enema through ostomy (had been receiving one q3d at rehab with
   good results)
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD dose meds
   - caution with lyte repletion
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   Access: PICC to be placed today in IR
   ICU Care
   Nutrition: encourage PO intake when off vent
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (patient agreed to one shock, see POE)
   Disposition: awaiting improvement in mental status, blood pressure, and
   respiratory status

2105-05-02 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started sevlemir carbonate per renal
   - ID: continue ceftaz course and dapto
   - patient started on dig and metop for rapid HR --> responded well.
   - Continued screening at [**Hospital1 **]
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-5-1**] 12:23 PM
   Ceftazidime - [**2105-5-1**] 02:07 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-5-2**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 75 (75 - 116) bpm
   BP: 118/73(84) {84/62(67) - 157/115(124)} mmHg
   RR: 18 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
                  Total In:
                                                                    314 mL
                  PO:
                  TF:
   IVF:
                                                                    314 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,686 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 7.6 L/min
   Physical Examination
   Gen:Awake, arousable follows commands
   Heart :Irregularly irregular, no murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, BS+, mild tenderness diffusely, no
   guarding/rebound
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   123 K/uL
   9.6 g/dL
   94 mg/dL
   3.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   17 mg/dL
   101 mEq/L
   137 mEq/L
   30.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2105-4-29**]  05:56 AM
                             [**2105-4-29**]  09:02 AM
                             [**2105-4-29**]  12:06 PM
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
                             [**2105-5-2**]  04:24 AM
   WBC
   6.6
   7.6
   8.3
   Hct
   28.2
   28.0
   30.7
   Plt
   124
   134
   123
   Cr
   3.8
   4.6
   3.6
   TCO2
   24
   22
   27
   26
   25
   29
   28
   Glucose
   82
   101
   94
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:13/3/0.39, ALT / AST:[**3-14**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.4 g/dL, LDH:147 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
    74 yo M w/ hypotension, septic knee and cirrhosis p/w white out of L
   lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # Respiratory failure: Underlying COPD with L pleural effusion on CT
   chest, with left lower lobe atelectasis likely [**2-2**] to mucous plugging
   and GNR pneumonia. Staph likely not cause of pneumonia. Patient is
   occasionally vent dependant which seems to be his current baseline from
   his previous rehab.
   - 8-day course of ceftaz for pneumonia (started on [**4-28**])
   - Currently tolerating trach mask, continue Chest PT
   # Hypotension:   Blood pressures lower overnight but improved this AM.
   [**Month (only) 51**] be related to HD made worse by autonomic dyxfunction from
   cirrhosis.   Patient
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim test was normal.
   - No need for dopamine for now; consider if unable to increase MAP to >
   60
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD), for six weeks from L knee washout per
   ID recs (start date was [**4-23**])
   # Sacral Osteomyelitis:  Patient with large Sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - Continue wound Vac
   - daptomycin as above
   # Abdominal pain: Left-sided colitis on CT but afebrile without
   elevated WBC. C. Diff negative. Mildly tender but without acute
   abdomen, likely with component from impacted stool.
   - Saline enema through ostomy (had been receiving one q3d at rehab with
   good results)
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled (without beta-blockade).
   - continue ASA 81
   # ESRD: HD M-W-F
   - HD dose meds
   - caution with lyte repletion
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   - guiaic stools
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (Pt agreed to one shock, see POE)
   Disposition: D/w case management placement.
   ------ Protected Section ------
   Patient
s a-line was pulled.
   ------ Protected Section Addendum Entered By:[**Name (NI) 7266**] [**Last Name (NamePattern1) 7267**], MD
   on:[**2105-5-2**] 10:16 ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**First Name (STitle) 7267**]
s note and I agree
   with his findings and plan of care.  Mr [**Known lastname **] has done well regarding
   Rx for his septic knee and pneumonia and left lung collapse.  We will
   add Tobramycin to Ceftaz for better lung coverage and add Rifampin to
   Daptomycin for better knee coverage, as per ID.  Yesterday the patient
   developed Afib but with digoxin and metoprolol he is rate controlled
   today.  We will continue metoprolol but at least for now stop digoxin.
   Chest PT continues, hoping to treat and prevent major lung atelectasis.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2105-5-2**] 13:41 ------

2105-05-04 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: septic knee, respiratory distress
   24 Hour Events:
   - continued ceftazidime and tobramycin, last dose after HD today (8-day
   course) pending tobra trough in AM
   - continued daptomycin and rifampin, monitor CBC/AST/ALT/CK weekly. Can
   d/c Rifampin if prosthesis is removed
   - still awaiting bed at [**Hospital 189**] Rehab
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-5-1**] 12:23 PM
   Ceftazidime - [**2105-5-1**] 02:07 PM
   Rifampin - [**2105-5-2**] 12:00 PM
   Tobramycin - [**2105-5-2**] 12:35 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-5-3**] 07:40 AM
   Morphine Sulfate - [**2105-5-3**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-5-4**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 66 (54 - 97) bpm
   BP: 103/62(79) {84/57(64) - 139/106(113)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,037 mL
                                                                     61 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    237 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 44.9 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 10.6 L/min
   Physical Examination
   Gen: AAO x 3
   Heart: Irregularly irregular, no murmurs, distant heart sounds
   Lungs: coarse breath sounds bilaterally
   Abd: Moderately distended, mild tenderness diffusely, no
   guarding/rebound, slightly hypoactive bowel sounds
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   124 K/uL
   9.2 g/dL
   98 mg/dL
   5.2 mg/dL
   29 mEq/L
   3.5 mEq/L
   29 mg/dL
   100 mEq/L
   136 mEq/L
   29.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
                             [**2105-5-2**]  04:24 AM
                             [**2105-5-2**]  04:21 PM
                             [**2105-5-3**]  05:05 AM
                             [**2105-5-4**]  04:53 AM
   WBC
   6.6
   7.6
   8.3
   6.9
   6.8
   Hct
   28.2
   28.0
   30.7
   28.7
   29.9
   Plt
   124
   134
   123
   119
   124
   Cr
   3.8
   4.6
   3.6
   4.0
   4.3
   5.2
   TCO2
   26
   25
   29
   28
   Glucose
   82
   101
   94
   118
   87
   98
   Other labs: PT / PTT / INR:15.0/35.9/1.3, CK / CKMB /
   Troponin-T:8/3/0.39, ALT / AST:[**2-10**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.2 g/dL, LDH:147 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   74 yo man with hypotension, septic knee and cirrhosis p/w white out of
   L lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # Respiratory failure: Underlying COPD with L pleural effusion on CT
   chest, with left lower lobe atelectasis likely [**2-2**] to mucous plugging
   and GNR pneumonia including ceftaz-resistant strains although improved
   clinical status on abx regimen. Sparse staph not thought to be cause of
   pneumonia. Patient is occasionally vent dependant which seems to be his
   current baseline from his previous rehab.
   - Tobramycin added for remainder of 8-day ceftaz course (started on
   [**4-28**]), last dose today
   - Currently tolerating trach mask with vent overnight; cont chest PT
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - continue Daptomycin (with HD) and rifampin, for six weeks from L knee
   washout per ID recs (start date was [**4-23**])
   # Sacral Osteomyelitis:  Patient with large sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - Continue wound Vac
   - Daptomycin as above
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled now on beta blockade.
   - Continue ASA 81, beta blocker
   # Hypotension:  Blood pressures stable on metoprolol despite h/o
   lower-running BPs which may be related to HD made worse by autonomic
   dyxfunction from cirrhosis.  [**Last Name (un) **] stim test was normal.
   # ESRD: HD M-W-F
   - HD dose meds
   - Caution with lyte repletion
   # Abdominal pain: Left-sided colitis on CT but afebrile without
   elevated WBC. C. Diff negative. Mildly tender but without acute
   abdomen, likely with component from impacted stool.
   - Saline enema through ostomy prn (had been receiving one q3d at rehab
   with good results)
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   Arterial Line - [**2105-4-23**] 02:07 PM
   22 Gauge - [**2105-4-25**] 08:06 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code (Pt agreed to one shock, see POE)
   Disposition: awaiting bed at [**Hospital1 189**]

2105-05-04 12:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Septic Arthritis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued nocturnal ventilation
   HD today
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2105-5-1**] 12:23 PM
   Ceftazidime - [**2105-5-1**] 02:07 PM
   Rifampin - [**2105-5-2**] 12:00 PM
   Tobramycin - [**2105-5-2**] 12:35 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-5-4**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2105-5-4**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 70 (54 - 97) bpm
   BP: 121/84(92) {84/58(66) - 140/106(113)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,037 mL
                                                                    280 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    237 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 44.9 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 10.6 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   124 K/uL
   98 mg/dL
   5.2 mg/dL
   29 mEq/L
   3.5 mEq/L
   29 mg/dL
   100 mEq/L
   136 mEq/L
   29.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2105-4-29**]  07:51 PM
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
                             [**2105-5-2**]  04:24 AM
                             [**2105-5-2**]  04:21 PM
                             [**2105-5-3**]  05:05 AM
                             [**2105-5-4**]  04:53 AM
   WBC
   6.6
   7.6
   8.3
   6.9
   6.8
   Hct
   28.2
   28.0
   30.7
   28.7
   29.9
   Plt
   124
   134
   123
   119
   124
   Cr
   3.8
   4.6
   3.6
   4.0
   4.3
   5.2
   TCO2
   26
   25
   29
   28
   Glucose
   82
   101
   94
   118
   87
   98
   Other labs: PT / PTT / INR:15.0/35.9/1.3, CK / CKMB /
   Troponin-T:8/3/0.39, ALT / AST:[**2-10**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.2 g/dL, LDH:147 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR--[**Male First Name (un) **] new
   Assessment and Plan
   74 yo male with admission with septic arthritis and now with ARDS,
   ventilatory failure and resolved sepsis.  He has continue need for
   management of high volume secretions but has been able to tolerate
   trach mask trials during the day for past 3-4 days.
   1)Respiratory Failure-
   PNA-Dapto/Ceftaz/Tobra/Rifampin all in place-_Ceftaz/Tobra to be
   completed today
   Trach mask during day
   2)Sepsis-
   Dapto/Rifampin to continue for Rx of arthritis over long term
   Improved and stable Rx
   3)Seizure Disorder-
   -Continue Keppra
 IMPAIRED SKIN INTEGRITY
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN TISSUE PERFUSION
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
with
 one shock
   Disposition : To [**Hospital1 189**] in AM
   Total time spent: 40

2105-05-05 06:49:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   -Underwent hemodialysis
   -Completed course of ceftazadime and tobraycin.
   -No new complaints. Still w/ back and knee pain controlled with prn
   morphine.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Rifampin - [**2105-5-2**] 12:00 PM
   Tobramycin - [**2105-5-2**] 12:35 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-5-4**] 08:27 AM
   Morphine Sulfate - [**2105-5-4**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-5-5**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 74 (61 - 122) bpm
   BP: 87/56(63) {87/54(63) - 148/104(112)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    397 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    397 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,603 mL
                                                                     68 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 96%
   ABG: ///28/
   Ve: 6.7 L/min
   Physical Examination
   Gen: AAO x 3
   Heart: Irregularly irregular, no murmurs, distant heart sounds
   Lungs: breath sounds with mild coarseness bilaterally
   Abd: Moderately distended, miminal tenderness diffusely, no
   guarding/rebound, normoactive bowel sounds
   Ext: 1+ Pitting edema to midcalf
   Labs / Radiology
   107 K/uL
   8.8 g/dL
   78 mg/dL
   4.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   100 mEq/L
   136 mEq/L
   28.7 %
   6.9 K/uL
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
                             [**2105-5-2**]  04:24 AM
                             [**2105-5-2**]  04:21 PM
                             [**2105-5-3**]  05:05 AM
                             [**2105-5-4**]  04:53 AM
                             [**2105-5-5**]  03:58 AM
   WBC
   6.6
   7.6
   8.3
   6.9
   6.8
   6.9
   Hct
   28.2
   28.0
   30.7
   28.7
   29.9
   28.7
   Plt
   124
   134
   123
   119
   124
   107
   Cr
   3.8
   4.6
   3.6
   4.0
   4.3
   5.2
   4.0
   TCO2
   25
   29
   28
   Glucose
   82
   101
   94
   118
   87
   98
   78
   Other labs: PT / PTT / INR:15.7/35.0/1.4, CK / CKMB /
   Troponin-T:8/3/0.39, ALT / AST:[**2-10**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.2 g/dL, LDH:147 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74 yo man with hypotension, septic knee and cirrhosis p/w white out of
   L lung on CXR, now resolved (likely mucus plug?). F/u CXR and CT scan
   show persistent L pleural effusion, with loculations, and atalectasis.
   # Respiratory failure: Underlying COPD with L pleural effusion on CT
   chest, with left lower lobe atelectasis likely [**2-2**] to mucous plugging
   and GNR pneumonia including ceftaz-resistant strains although improved
   clinical status on abx regimen. Sparse staph not thought to be cause of
   pneumonia. Patient is occasionally vent dependant which seems to be his
   current baseline from his previous rehab.
   - Completed 8-day course or ceftaz and tobramycin
   - Currently tolerating trach mask with vent overnight; cont chest PT
   # MRSA Septic Prosthetic joint: Patient s/p L knee washout.  Hardware
   remains in place. Was not able to obtain records from OSH re: culture
   data.
   - Continue Daptomycin (with HD) and rifampin, for six weeks from L knee
   washout per ID recs (start date was [**4-23**])
   - Will need suppressive therapy after if prosthesis left in place
   - Will need qweekly CBC, AST/ALT, CK labs while on dapto and rifampin
   # Sacral Osteomyelitis:  Patient with large sacral ulcer, osteo
   confirmed by CT.  Patient is currently on daptomycin.
   - Continue wound Vac
   - Daptomycin as above
   # Atrial fibrillation: holding anticoagulation given Hx of GIB.  Rate
   controlled now on beta blockade.
   - Continue ASA 81, beta blocker
   # Hypotension:  Blood pressures stable on metoprolol despite h/o
   lower-running BPs which may be related to HD made worse by autonomic
   dyxfunction from cirrhosis.  [**Last Name (un) **] stim test was normal.
   # ESRD: HD M-W-F
   - HD dose meds
   - Caution with lyte repletion
   # Abdominal pain: Left-sided colitis on CT but afebrile without
   elevated WBC. C. Diff negative. Mildly tender but without acute
   abdomen, likely with component from impacted stool.
   - Saline enema through ostomy prn (had been receiving one q3d at rehab
   with good results)
   # H/o seizure d/o: Question what prompted starting keppra as poor notes
   from OSH. Doubt unresponsive episodes represent sz activity as they are
   gradual onset.
   - keppra for now, dosing with HD
   # Anemia: Per notes is chronic, pt is transfusion dependent, likely
   secondary to ESRD and acute illness. Transfused one unit here, and HCT
   did not respond.  Hemolysis labs negative.  HCT stable.  Also on
   epogen.  No signs of bleeding.
   - trend hct, transfuse for <21
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code (Pt agreed to one shock, see POE)
   Disposition: D/c to [**Hospital1 189**] today

2105-05-05 09:52:00 Physician Attending Progress Note
Chief Complaint: Resp Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                                History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vancomycin
   Thrombocytopeni
   Heparin Sodium (Injection) (Heparin Sodium (Porcine))
   Unknown;
   Phenytoin Sodium
   Unknown;
   Diazepam
   Unknown;
   Lorazepam
   Unknown;
   Last dose of Antibiotics:
   Rifampin - [**2105-5-2**] 12:00 PM
   Tobramycin - [**2105-5-2**] 12:35 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-5-5**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2105-5-5**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 92 (68 - 122) bpm
   BP: 129/91(99) {87/54(63) - 148/104(112)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    397 mL
                                                                     97 mL
   PO:
             TF:
   IVF:
                                                                    397 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,603 mL
                                                                     97 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 93%
   ABG: ///28/
   Ve: 6.7 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   107 K/uL
   78 mg/dL
   4.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   100 mEq/L
   136 mEq/L
   28.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2105-4-30**]  02:59 AM
                             [**2105-4-30**]  03:06 AM
                             [**2105-5-1**]  04:07 AM
                             [**2105-5-1**]  04:48 AM
                             [**2105-5-1**]  04:57 AM
                             [**2105-5-2**]  04:24 AM
                             [**2105-5-2**]  04:21 PM
                             [**2105-5-3**]  05:05 AM
                             [**2105-5-4**]  04:53 AM
                             [**2105-5-5**]  03:58 AM
   WBC
   6.6
   7.6
   8.3
   6.9
   6.8
   6.9
   Hct
   28.2
   28.0
   30.7
   28.7
   29.9
   28.7
   Plt
   124
   134
   123
   119
   124
   107
   Cr
   3.8
   4.6
   3.6
   4.0
   4.3
   5.2
   4.0
   TCO2
   25
   29
   28
   Glucose
   82
   101
   94
   118
   87
   98
   78
   Other labs: PT / PTT / INR:15.7/35.0/1.4, CK / CKMB /
   Troponin-T:8/3/0.39, ALT / AST:[**2-10**], Alk Phos / T Bili:288/0.5, Lactic
   Acid:0.6 mmol/L, Albumin:2.2 g/dL, LDH:147 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74 yo male with sepsis admission from septic arthritis and with
   significant respiratory failure and sepsis now moving to chronic
   support and rehab placement.
   Septic Arthritis-
   Daptomycin/Rifampin to continue for 6 week course
   Follow Exam
   Sacral Decubitus-
   -Vac sponge
   -Follow up with plastic surgery
   Respiratory Failure-
   -Intermittent nocturnal ventilatory support to continue
   -ABX completed
   Atrial Fibrillation-
   -Continue ASA
   -Continue Beta-blocker
   -No anticoagulation in the setting of GIB
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN TISSUE PERFUSION
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition: Continue with bowel regimen
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2105-4-22**] 08:20 PM
   PICC Line - [**2105-4-29**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :TO [**Hospital1 189**] Today
   Total time spent: 40